US04663331
3-Amino-4-[7-piperidinohept-5-ynylamino]-1,2,5-thiadiazole-1,1-dioxide
In a manner similar to Example 1, reaction of 7-piperidinohept-5-ynylamine and 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide followed by reaction with ammonia gives the title compound.

reactant | 7-piperidinohept-5-ynylamine | N1(CCCCC1)CC#CCCCCN | C12H22N2
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | ammonia | N | H3N
product | 3-Amino-4-[7-piperidinohept-5-ynylamino]-1,2,5-thiadiazole-1,1-dioxide | NC1=NS(N=C1NCCCCC#CCN1CCCCC1)(=O)=O | C14H23N5O2S
